US07713994B2
4-{[(3′-Dimethylaminomethyl-2-hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound (purified through chromatography) is prepared from 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione (50 mg, 0.15 mmol) and 4-aminomethyl-3′-dimethylaminomethyl-biphenyl-2-ol (50 mg, 0.18 mmol) in 24% yield: MS (ESI): 554.0 (M+1)+1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-iodo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.15 mmol, 50 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8INO3
reactant | 4-aminomethyl-3′-dimethylaminomethyl-biphenyl-2-ol | 0.18 mmol, 50 mg | NCC=1C=C(C(=CC1)C1=CC(=CC=C1)CN(C)C)O | C16H20N2O
product | 4-{[(3′-Dimethylaminomethyl-2-hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | 24% yield | CN(C)CC=1C=C(C=CC1)C1=C(C=C(C=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)O | C26H24IN3O3
